US05668143
5,7-Dichloro-4-[benzenesulfonylimino]-1,4-dihydroquinoline-2-carboxylic acid, butyl ester
Combine 5,7-dichloro-quinolin-4-one-2-carboxylic acid, butyl ester (1.00 g, 3.2 mmol) and benzenesulfonyl isocyanate (0.85 mL, 6.3 mmol) in acetonitrile (15 mL). Heat to reflux under an inert atmosphere. After 16 hours, quench with methanol (5 mL). Evaporate in vacuo. Chromatograph on silica gel eluting with 2% acetone/dichloromethane. Recrystallize from ethyl acetate/hexane to give the title compound as a solid: TLC Rf =0.38 (silica gel, 2% acetone/dichloromethane); mp; 94°-95° C. Elem. Anal. calculated for C20H18Cl2N2O4S: C, 52.98; H, 4.00; N, 6.18. Found: C, 53.27; H, 3.95; N, 6.12.

reactant | 5,7-dichloro-quinolin-4-one-2-carboxylic acid | ClC1=C2C(CC(=NC2=CC(=C1)Cl)C(=O)O)=O | C10H5Cl2NO3
reactant | benzenesulfonyl isocyanate | 6.3 mmol, 0.85 mL | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 5,7-Dichloro-4-[benzenesulfonylimino]-1,4-dihydroquinoline-2-carboxylic acid, butyl ester | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OCCCC)=NS(=O)(=O)C1=CC=CC=C1 | C20H18Cl2N2O4S
